US04075342
2-Phenyl-5,6-dihydro-pyrazolo[5,1-a]isoquinoline-1-carboxylic acid ethyl ester
2-Phenyl-5,6-dihydro-pyrazolo[5,1-a]isoquinoline-1-carboxylic acid (7.48 g.) is stirred at 90° C. for three hours with 3.77 ml. of SOCl2. The thionyl chloride excess is eliminated in vacuo and the residual acid chloride is dissolved in 80 ml. of ethanol at 40°-50° C. After 15 minutes, the reaction mixture is neutralized by addition of aqueous sodium bicarbonate and the solvent is eliminated by distillation. The residue is extracted with ethyl ether and, after evaporation of the organic solution, is crystallized from isopropyl ether. Yield of title compound 2.47 g.; m.p. 84°-5° C.

reactant | 2-Phenyl-5,6-dihydro-pyrazolo[5,1-a]isoquinoline-1-carboxylic acid | 7.48 g | C1(=CC=CC=C1)C1=NN2C(C3=CC=CC=C3CC2)=C1C(=O)O | C18H14N2O2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 2-Phenyl-5,6-dihydro-pyrazolo[5,1-a]isoquinoline-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN2C1C1=CC=CC=C1CC2)C2=CC=CC=C2 | C20H18N2O2
